2145-09-11 05:58:00 Physician Resident Progress Note
Chief Complaint:  SOB, dysphagia
   24 Hour Events:
   No acute issues overnight. Patient tolerated meds crushed in apple
   sauce without any cough or dyspnea. O2 sat remains >95% on 2L NC
   ENT saw patient yesturday and felt she had a partial left vocal cord
   paralysis but felt she was still cleared for puree and thick liquids PO
   as per recent speech and swallow evaluation.  She also had her MRI head
   and neck last
   She was repleted for a Potassium of 2.7 this morning.
 MAGNETIC RESONANCE IMAGING - At [**2145-9-10**] 07:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2145-9-10**] 08:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-11**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 84 (75 - 98) bpm
   BP: 124/63(77) {102/44(64) - 174/124(122)} mmHg
   RR: 13 (11 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    425 mL
                                                                    283 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                     65 mL
                                                                    283 mL
   Blood products:
   Total out:
                                                                  1,353 mL
                                                                    128 mL
   Urine:
                                                                  1,353 mL
                                                                    128 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -928 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 98%
   ABG: ///38/
   Physical Examination :
   General: Alert and oriented to person, place and time, NAD, pale
   complexion, cachectic appearance, has cervical collar in place
   HEENT:PERRL with sluggish rxn on left, CN 6 palsy noted, dry mucosal
   membranes noted
   CVS: S1/S2 regular, no murmurs or rubs, peripheral pulses at radial and
   pedal and carotids all 2+ bilaterally
   Lungs: CTA bilaterally
   Abd: ND, nontender, normoactive bowel sounds throughout
   Ext: 2+ pedal pulses, no edema noted
   Skin: pale, no rashes noted
   Neuro: A&Ox3, patient in C-Spine [**Location (un) 2420**] collar, CNs 2,3,4,5,7,8 in tact.
   Unable to assess CN 9 and 10, 11 due to collar. CN 6 left sided palsy
   noted. No sensory deficits. Hoarse voice. CN 12 finding with leftward
   tongue deviation. Downgoing toes bilaterally. Motor test deferred as
   patient supine and in C-collar.
   Labs / Radiology
   290 K/uL
   12.2 g/dL
   102 mg/dL
   0.3 mg/dL
   38 mEq/L
   2.7 mEq/L
   16 mg/dL
   95 mEq/L
   137 mEq/L
   34.5 %
   6.6 K/uL
        [image002.jpg]
   [**9-11**]: MRI neck and head wet read showing no acute bleeds and no evidence
   of retropulsion into spinal canal or compression at C1 fracture site
   [**9-10**] : ENT scope and evaluation showed left partial vocal cord paralysis
                             [**2145-9-9**]  11:08 PM
                             [**2145-9-10**]  06:07 AM
                             [**2145-9-11**]  04:09 AM
   WBC
   6.9
   6.6
   Hct
   37.7
   34.5
   Plt
   310
   290
   Cr
   0.4
   0.3
   TCO2
   38
   Glucose
   102
   102
   Other labs: PT / PTT / INR:13.0/25.0/1.1, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan:
   Ms. [**Known lastname 4045**] is a [**Age over 90 **]yo female with PMH as listed above who was
   transferred to the MICU for dyspnea and recent dysphagia compalaints
   #) Respiratory distress -patient had very mild SOB by time she arrived
   to ICU service which was maintained on 2-4L oxygen via NC with oxygen
   saturations above 95% consistently and she continues to have minimal
   compalaints . CXR on admission showed hypertensive cardiomediastinal
   configuration but no evidence of aspirations or acute pulmonary
   process. She has benign lung exam and is CTA today.
   -plan to wean to RA today
   #) Mental status changes: Unclear etiology. Per nursing staff, she was
   alert, oriented, conversant on arrival, but had an episode after
   admission when she was not speaking in intelligible sentences. She had
   an initial differential for delerium which included severe dehydration,
   poor pain control, or other metabolic etiologies but after IVFs and
   better neck pain control she was much more alert and oriented and her
   communication was only hindered by her hoarse voice.
   - con
t current pain control regimen
   - IV fluids PRN for urine output less than 40cc/hr or MAP < 60.
   .
   #)Neurological findings:
   - neurology consulted and following, repeated MRI/MRA per neurology
   recommendations and the patient's neck MRA showed now evidence of
   dissections or pathology. Wet read of neck and head MRI on [**9-11**] was
   clear of any CVAs and showed no spinal cord impingement at C1 fx site,
   some cervical stenosis noted at lower levels. The patient's CT neck
   showed stable C1 fracture with no changes as compared to prior neck CT
   from [**9-5**]. She had an ENT exam with scope [**9-10**] that showed left partial
   vocal cord paralysis which may account for her hoarseness and suspected
   dysphagia, but true CN 12 partial involvement more fitting given
   leftward tongue deviation on exam and may be due to local edema, will
   continue to monitor for hopeful resolution.
   Repeat speech and swallow done after admission and patient was cleared
   [**9-10**] for thick liquids, purees and a nutrition team is also following.
   -callout to Neurology floor [**Hospital Ward Name **]
   - Will plan to f/up final results of MRI head and neck
   .
   #)C1 fracture: Occurred as a result of a recent mechanical fall. Her
   family decided to pursue a conservative approach. She was discharged
   with [**Location (un) 2420**] J collar in place which she will need to wear for the next
   3-4 months. As noted above no new radiological changes in fracture on
   CT since last CT done [**2145-9-5**].  Pain well controlled currently
   .
   #)Hypertension: Continued patient's home HCTZ on admission to ICU,
   added Lisinopril 10mg  qdaily for better control
   .
   #)GERD: Continue Omeprazole.
   .
   #) Pain control - continue oxycodone PRN,  first line acetaminophen
   .
   #)FEN: NPO initially, and will advance gradually to thick liquids and
   purees based on Speech and Swallow recs and will f/up additional
   nutrition consult input
   .
   #)Prophylaxis: Heparin SQ for DVT prophylaxis; continue PPI
   .
   #)Access: 2 PIVs
   .
   #)Dispo: Pending clinical improvement , call out and  transfer  to
   neuro floor on [**Hospital Ward Name **] later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2145-9-10**] 01:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2145-09-11 10:50:00 Physician Attending Progress Note
Chief Complaint: NIF -24
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] F s/p C1 fracture following mechanical fall with CN XII palsy.
   Transferred to ICU for concern of impending respiratory failure with
   NIF -24.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2145-9-10**] 07:00 PM
 CALLED OUT
   - MRI unremarkable
   -L vocal cord paralysis with medialization
   -Cleared by S&S for thick liquid and pureed solids
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2145-9-10**] 08:44 PM
   Other medications:
   Heparin SC
   HCTZ
   Colace
   Tylenol
   Lansoprazole
   Lisinopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Genitourinary: Foley
   Flowsheet Data as of  [**2145-9-11**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 87 (75 - 98) bpm
   BP: 166/62(83) {102/44(64) - 174/100(122)} mmHg
   RR: 23 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    425 mL
                                                                    478 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                     65 mL
                                                                    478 mL
   Blood products:
   Total out:
                                                                  1,353 mL
                                                                    367 mL
   Urine:
                                                                  1,353 mL
                                                                    367 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -928 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2 L
   SpO2: 100%
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: [**Location (un) 2420**] collar
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed, CN XII palsy
   Labs / Radiology
   12.2 g/dL
   290 K/uL
   102 mg/dL
   0.3 mg/dL
   38 mEq/L
   2.7 mEq/L
   16 mg/dL
   95 mEq/L
   137 mEq/L
   34.5 %
   6.6 K/uL
        [image002.jpg]
                             [**2145-9-9**]  11:08 PM
                             [**2145-9-10**]  06:07 AM
                             [**2145-9-11**]  04:09 AM
   WBC
   6.9
   6.6
   Hct
   37.7
   34.5
   Plt
   310
   290
   Cr
   0.4
   0.3
   TCO2
   38
   Glucose
   102
   102
   Other labs: PT / PTT / INR:13.0/25.0/1.1, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Imaging: MRI - Unremarkable.
   Microbiology: Urine culture - Yeast.
   Assessment and Plan: 95 F C1 fracture following mechanical fall
   admitted with CN XII palsy and concern for respiratory failure.  Her
   respiratory status is stable.
   1)       Respiratory
 Wean to RA.  OOB.  Ocean nasal spray for nasal
   congestion.
   2)       Neuro
 L vocal cord paralysis.  Cleared for dysphagia diet.
   Continue C-collar.  Tylenol for pain.
   3)       HTN
 Increase lisinopril to 10 mg daily.  Continue HCTZ.
   4)       Elevated bicarbonate
 Likely mildly contracted.  IVF boluses
   PRN.  Follow UOP.
   5)       Hypokalemia
 Repleted.  Repeat this afternoon.
    Attending addendum
I agree in full with the history, ROS, exam and
   plan of the above note of Dr. [**Last Name (STitle) **] and would emphasize that patient now
   has reasonable stability of ventilation in the setting of ongoing
   support and will move to wean O2 as possible.  She has some persistent
   dyspnea while laying flat but in upright position she has reasonable
   air movement and oxygen saturations remain stable throughout.  Breath
   sounds are clear at bases.
   Will move to have patient transfer to floor with continued oxygen
   saturation monitoring and will need precautions given impariment in
   vocal cord function.
   ICU Care
   Nutrition: Dysphagia diet.
   Glycemic Control:  None.
   Lines: Peripheral IVs
   22 Gauge - [**2145-9-10**] 01:37 PM
   Prophylaxis:
   DVT: SC heparin.  Boots
   Stress ulcer: Lansoprazole.
   VAP: N/A
   Comments:
   Communication:  Comments: Patient, consultation services
   Code status: DNR / DNI
   Disposition : Called out to neuro floor.
   Total time spent: 30

2145-09-12 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Ms. [**Known lastname 4045**] is a [**Age over 90 **]yo female with PMH as listed above who was
   transferred to the MICU for dyspnea and recent dysphagia complaints
   UTI
   Assessment:
    Cloudy urine, foul smelling. C/o frequency.  Denies any other
   symptoms. WBC
 8.1 afebrile (patient on Tylenol q8hr)
   Action:
    UA and urine culture sent, foley d/c earlier on [**2145-9-11**], started on IV
   ceftriaxone.
   Response:
    pending
   Plan:
    Continue to monitor patient status, f/u urine culture result, adjust
   abx accordingly.
 URINE CULTURE - At [**2145-9-12**] 12:00 AM
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-9-12**] 03:39 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-9-11**] 10:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-12**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 88 (83 - 111) bpm
   BP: 154/77(89) {110/48(64) - 171/91(100)} mmHg
   RR: 25 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    715 mL
                                                                    128 mL
   PO:
             TF:
   IVF:
                                                                    715 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  1,047 mL
                                                                     30 mL
   Urine:
                                                                  1,047 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -332 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///36/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   306 K/uL
   12.3 g/dL
   118 mg/dL
   0.4 mg/dL
   36 mEq/L
   3.8 mEq/L
   12 mg/dL
   99 mEq/L
   138 mEq/L
   35.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2145-9-9**]  11:08 PM
                             [**2145-9-10**]  06:07 AM
                             [**2145-9-11**]  04:09 AM
                             [**2145-9-12**]  02:28 AM
   WBC
   6.9
   6.6
   8.1
   Hct
   37.7
   34.5
   35.0
   Plt
   [**Telephone/Fax (3) 4107**]
   Cr
   0.4
   0.3
   0.4
   TCO2
   38
   Glucose
   102
   102
   118
   Other labs: PT / PTT / INR:13.0/25.0/1.1, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Assessment and Plan:
   Ms. [**Known lastname 4045**] is a [**Age over 90 **]yo female with PMH as listed above who was
   transferred to the MICU for dyspnea and recent dysphagia compalaints
   #) Respiratory distress -patient had very mild SOB by time she arrived
   to ICU service which was maintained on 2-4L oxygen via NC with oxygen
   saturations above 95% consistently and she continues to have minimal
   compalaints . CXR on admission showed hypertensive cardiomediastinal
   configuration but no evidence of aspirations or acute pulmonary
   process. She has benign lung exam and is CTA today.
   -plan to wean to RA today
   #) Mental status changes: Unclear etiology. Per nursing staff, she was
   alert, oriented, conversant on arrival, but had an episode after
   admission when she was not speaking in intelligible sentences. She had
   an initial differential for delerium which included severe dehydration,
   poor pain control, or other metabolic etiologies but after IVFs and
   better neck pain control she was much more alert and oriented and her
   communication was only hindered by her hoarse voice.
   - con
t current pain control regimen
   - IV fluids PRN for urine output less than 40cc/hr or MAP < 60.
   .
   #)Neurological findings:
   - neurology consulted and following, repeated MRI/MRA per neurology
   recommendations and the patient's neck MRA showed now evidence of
   dissections or pathology. Wet read of neck and head MRI on [**9-11**] was
   clear of any CVAs and showed no spinal cord impingement at C1 fx site,
   some cervical stenosis noted at lower levels. The patient's CT neck
   showed stable C1 fracture with no changes as compared to prior neck CT
   from [**9-5**]. She had an ENT exam with scope [**9-10**] that showed left partial
   vocal cord paralysis which may account for her hoarseness and suspected
   dysphagia, but true CN 12 partial involvement more fitting given
   leftward tongue deviation on exam and may be due to local edema, will
   continue to monitor for hopeful resolution.
   Repeat speech and swallow done after admission and patient was cleared
   [**9-10**] for thick liquids, purees and a nutrition team is also following.
   -callout to Neurology floor [**Hospital Ward Name **]
   - Will plan to f/up final results of MRI head and neck
   .
   #)C1 fracture: Occurred as a result of a recent mechanical fall. Her
   family decided to pursue a conservative approach. She was discharged
   with [**Location (un) 2420**] J collar in place which she will need to wear for the next
   3-4 months. As noted above no new radiological changes in fracture on
   CT since last CT done [**2145-9-5**].  Pain well controlled currently
   .
   #)Hypertension: Continued patient's home HCTZ on admission to ICU,
   added Lisinopril 10mg  qdaily for better control
   .
   #)GERD: Continue Omeprazole.
   .
   #) Pain control - continue oxycodone PRN,  first line acetaminophen
   .
   #)FEN: NPO initially, and will advance gradually to thick liquids and
   purees based on Speech and Swallow recs and will f/up additional
   nutrition consult input
   .
   #)Prophylaxis: Heparin SQ for DVT prophylaxis; continue PPI
   .
   #)Access: 2 PIVs
   .
   #)Dispo: Pending clinical improvement , call out and  transfer  to
   neuro floor on [**Hospital Ward Name **] later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2145-9-10**] 01:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2145-09-12 12:53:00 Physician Attending Progress Note
Chief Complaint: Dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] F s/p mechanical fall with C1 fracture, CN XII palsy.  Admitted with
   dyspnea and NIF -24.  She has been quite stable from a respiratory
   standpoint.  She has L vocal cord paralysis but is tolerating a
   dysphagia diet.
   24 Hour Events:
 URINE CULTURE - At [**2145-9-12**] 12:00 AM
 CALLED OUT
   -Complained of urinary frequency; had foul UA and ceftriaxone was
   started; Foley DC'd
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-9-12**] 03:39 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-9-12**] 08:18 AM
   Other medications:
   Colace
   HCTZ
   Tylenol
   Lansoprazole
   Lisinopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Dysuria
   Flowsheet Data as of  [**2145-9-12**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 86 (83 - 106) bpm
   BP: 133/89(100) {110/48(64) - 171/94(107)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    715 mL
                                                                    177 mL
   PO:
             TF:
   IVF:
                                                                    715 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  1,047 mL
                                                                    230 mL
   Urine:
                                                                  1,047 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -332 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2L
   SpO2: 98%
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Dry mucous membranes
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: [**Location (un) 2420**] collar
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   306 K/uL
   118 mg/dL
   0.4 mg/dL
   36 mEq/L
   3.8 mEq/L
   12 mg/dL
   99 mEq/L
   138 mEq/L
   35.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2145-9-9**]  11:08 PM
                             [**2145-9-10**]  06:07 AM
                             [**2145-9-11**]  04:09 AM
                             [**2145-9-12**]  02:28 AM
   WBC
   6.9
   6.6
   8.1
   Hct
   37.7
   34.5
   35.0
   Plt
   [**Telephone/Fax (3) 4107**]
   Cr
   0.4
   0.3
   0.4
   TCO2
   38
   Glucose
   102
   102
   118
   Other labs: PT / PTT / INR:13.0/25.0/1.1, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Microbiology: Urine culture - Pending
   Assessment and Plan: 95 F s/p mechanical fall with C1 fracture with CN
   XII palsy.  She continues to have dysphagia and difficulty swallowiny
   anything more than pudding.  Her respiratory status remains stable.
   She now has evidence of a UTI and appears slightly dehydrated.
   1)       UTI
 Continue ceftriaxone.  Follow up urine culture.
   2)       Dysphagia  - Continue dysphagia diet.  Will ask S&S to
   reassess.
   3)       Neuro
 Continue [**Location (un) 2420**] collar.  PT consult.
   4)       Respiratory
 Wean O2.
   5)       Hypovolemia
 Small IVF bolus today.
   6)       HTN- Stop HCTZ.  Titrate lisinopril as needed..
   ICU Care
   Nutrition: Dysphagia
   Glycemic Control:  Blood sugar well controlled
   Lines: Peripheral IV
   22 Gauge - [**2145-9-10**] 01:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Lansoprazole
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: